US05563280
Preparation of 4-(2,6-dichlorophenoxy)-6-(methoxymethyloxy)coumarin
A mixture of 4-(2,6-dichlorophenoxy)-6-hydroxycoumarin (1.2 g, 3.2 mmole), dimethoxymethane (0.565 g, 7.4 mmole), POCl3 (0.74 g, 4.8 mmole) and dimethylformamide (0.43 g, 5.94 mmole) in toluene is heated at 90°-100° C. for 4 hours, cooled to room temperature, poured onto ice water and filtered. The filtercake is dried and recrystallized from acetonitrile/water to afford the title product, 0.45 g (38% yield), mp 302°-305° C. (dec), identified by 1HNMR, 13CNMR and IR analyses.

reactant | 4-(2,6-dichlorophenoxy)-6-hydroxycoumarin | 3.2 mmole, 1.2 g | ClC1=C(OC2=CC(OC3=CC=C(C=C23)O)=O)C(=CC=C1)Cl | C15H8Cl2O4
reactant | dimethoxymethane | 7.4 mmole, 0.565 g | COCOC | C3H8O2
reactant | POCl3 | 4.8 mmole, 0.74 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 5.94 mmole, 0.43 g | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2,6-dichlorophenoxy)-6-(methoxymethyloxy)coumarin | 38% yield | ClC1=C(OC2=CC(OC3=CC=C(C=C23)OCOC)=O)C(=CC=C1)Cl | C17H12Cl2O5
